US08183380B2
rac-1-[2-(2,3-Dihydro-benzofuran-3-ylamino)-quinolin-6-yl]-3-(1-methyl-piperidin-4-yl)-urea
The title compound was prepared in accordance with the general method 4 described in example 16 from bis(trichloromethyl) carbonate, 1-methyl-piperidin-4-ylamine and rac-N2-(2,3-dihydro-benzofuran-3-yl)-quinoline-2,6-diamine; MS: m/e=418.6 (M+H+).

reactant | bis(trichloromethyl) carbonate | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | 1-methyl-piperidin-4-ylamine | CN1CCC(CC1)N | C6H14N2
reactant | rac-N2-(2,3-dihydro-benzofuran-3-yl)-quinoline-2,6-diamine | O1CC(C2=C1C=CC=C2)NC2=NC1=CC=C(C=C1C=C2)N | C17H15N3O
product | rac-1-[2-(2,3-Dihydro-benzofuran-3-ylamino)-quinolin-6-yl]-3-(1-methyl-piperidin-4-yl)-urea | O1CC(C2=C1C=CC=C2)NC2=NC1=CC=C(C=C1C=C2)NC(=O)NC2CCN(CC2)C | C24H27N5O2
